US05455273
m) trans-4-(4-tert.butoxycarbonyl-methylaminomethyl-phenyl)-N-(4-chlorobenzenesulphonyl)-N-methylcyclohexylamine
from trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-methylcyclohexylamine and 4-chlorobenzenesulphonic acid chloride. Melting point: 105°-106° C.

reactant | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-methylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NC)CNC | C20H32N2O2
reactant | 4-chlorobenzenesulphonic acid chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | trans-4-(4-tert.butoxycarbonyl-methylaminomethyl-phenyl)-N-(4-chlorobenzenesulphonyl)-N-methylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(C)S(=O)(=O)C1=CC=C(C=C1)Cl)CNC | C26H35ClN2O4S
